US07129239B2
Preparation of 1-{1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-4-phenylpiperidin-4-yl}-ethanone (29A-1)
To a solution of 6-Chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine I-(4A-7)c (68 mg, 0.18 mmol) in 1:1 methylene chloride/ethanol (2 ml) was added 1-(4-phenylpiperidin-4-yl)-ethanone (48 mg, 0.2 mmol) and triethylamine (70 μl, 0.5 mmol). The mixture was stirred overnight, concentrated under reduced pressure, and then purified on a Biotage™ Flash 12S column using 5–10% methanol in methylene chloride as eluant to give title compound 29A-1 (77 mg, 78%).

reactant | 6-Chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine | 0.18 mmol, 68 mg | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C17H9Cl3N4
reactant | 1-(4-phenylpiperidin-4-yl)-ethanone | 0.2 mmol, 48 mg | C1(=CC=CC=C1)C1(CCNCC1)C(C)=O | C13H17NO
reactant | triethylamine | 0.5 mmol, 70 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride ethanol | 2 ml | C(Cl)Cl.C(C)O
product | 1-{1-[9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-yl]-4-phenylpiperidin-4-yl}-ethanone | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)N1CCC(CC1)(C1=CC=CC=C1)C(C)=O | C30H25Cl2N5O
